US07531546B2
To a solution of 8-acetyl-2,8-diaza-spiro[4.5]decane-2-carboxylic acid tert-butyl ester (1.34 g) in ethyl acetate (10 ml), a 1 M ethyl acetate solution of HCl (20 ml). After stirring for 2 h at room temperature, the reaction mixture is evaporated down to give 1-(2,8-diaza-spiro[4.5]dec-8-yl)-ethanone hydrochloride as a solid.

reactant | 8-acetyl-2,8-diaza-spiro[4.5]decane-2-carboxylic acid tert-butyl ester | 1.34 g | C(C)(C)(C)OC(=O)N1CC2(CC1)CCN(CC2)C(C)=O | C15H26N2O3
reactant | HCl | 20 ml | Cl | ClH
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 1 M | C(C)(=O)OCC | C4H8O2
product | 1-(2,8-diaza-spiro[4.5]dec-8-yl)-ethanone hydrochloride | Cl.C1NCCC12CCN(CC2)C(C)=O | InChI=1S/C10H18N2O.ClH/c1-9(13)12-6-3-10(4-7-12)2-5-11-8-10;/h11H,2-8H2,1H3;1H
